US07476399B2
Thiophene-3-carboxylic acid 4-trifluoromethoxy-benzylamide
Prepared in a similar manner to example 4 using thiophene-3-carboxylic acid and 4-trifluoromethoxy-benzylamine. MS (M+H, 302.0).

reactant | thiophene-3-carboxylic acid | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | 4-trifluoromethoxy-benzylamine | FC(OC1=CC=C(CN)C=C1)(F)F | C8H8F3NO
product | Thiophene-3-carboxylic acid 4-trifluoromethoxy-benzylamide | FC(OC1=CC=C(CNC(=O)C2=CSC=C2)C=C1)(F)F | C13H10F3NO2S
